US07576115B2
Synthesis of 2-nitro-4-[(2-{1-[5-(4-trifluoromethylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoic acid
From methyl 2-nitro-4-[(2-{1-[5-(4-trifluoromethylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoate (60.9 mg (0.12 mmol) and 0.2 M sodium hydroxide aqueous solution (1.26 mL, 0.25 mmol), 38.2 mg of the desired product was obtained in the same manner as in Synthetic Example 70 as a pale yellow solid (yield 65%).

reactant | methyl 2-nitro-4-[(2-{1-[5-(4-trifluoromethylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoate | [N+](=O)([O-])C1=C(C(=O)OC)C=CC(=C1)C(=O)NN=C(C)C1=CSC(=C1O)C1=CC=C(C=C1)C(F)(F)F | C22H16F3N3O6S
reactant | sodium hydroxide | 0.25 mmol, 0.2 M, 1.26 mL | [OH-].[Na+]
product | 2-nitro-4-[(2-{1-[5-(4-trifluoromethylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoic acid | 38.2 mg | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)C(=O)NN=C(C)C1=CSC(=C1O)C1=CC=C(C=C1)C(F)(F)F | C21H14F3N3O6S
